US05397801
A) N,N-Di[2-(methoxycarbonyl)ethyl]benzylamine
107 g of benzylamine in 200 ml of ethanol are cooled in an ice bath and 172.2 g of methyl acrylate in 250 ml of ethanol are slowly added. After 13 days at RT, the solvent is evaporated under vacuum and a part of the oily residue is then distilled.

reactant | benzylamine | 107 g | C(C1=CC=CC=C1)N | C7H9N
reactant | methyl acrylate | 172.2 g | C(C=C)(=O)OC | C4H6O2
solvent | ethanol | 200 ml | C(C)O | C2H6O
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | N,N-Di[2-(methoxycarbonyl)ethyl]benzylamine | COC(=O)CCN(CCC(=O)OC)CC1=CC=CC=C1 | C15H21NO4
